US08431563B2
A 20 mL vial was charged with 2-(3-bromo-4-(4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-1,1,1-trifluoro-2-propanol (0.500 g, 1.00 mmol), diisopropylamine (2.14 mL, 15.0 mmol), 2 mL of DMF, tetrakis(triphenylphosphine)palladium (0) (0.116 g, 0.100 mmol, Strem Chemical Inc, Newburyport, Mass.), copper (I) iodide (0.019 g, 0.100 mmol, Strem Chemical Inc, Newburyport, Mass.), and trimethyl((3-methyloxetan-3-yl)ethynyl)silane (0.506 g, 3.00 mmol, published PCT patent application no. WO2010030954). The vial was sealed and heated at 100° C. for 3 h. After that time, an additional 20 mol % of both tetrakis(triphenylphosphine)palladium (0) and copper (I) iodide were added and heating was continued for an additional 12 h. The mixture was concentrated and purified by column chromatography (40 g of silica, 0 to 60% EtOAc in hexanes) to give 1,1,1-trifluoro-2-(3-((3-methyl-3-oxetanyl)ethynyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (0.150 g) as a mixture of two enantiomers.

reactant | 2-(3-bromo-4-(4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-1,1,1-trifluoro-2-propanol | 1.00 mmol, 0.500 g | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C)O | C17H18BrF3N2O3S2
reactant | diisopropylamine | 15.0 mmol, 2.14 mL | C(C)(C)NC(C)C | C6H15N
reactant | trimethyl((3-methyloxetan-3-yl)ethynyl)silane | C[Si](C#CC1(COC1)C)(C)C | C9H16OSi
catalyst | tris(dibenzylideneacetone)dipalladium | 0.100 mmol, 0.116 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper (I) iodide | 0.100 mmol, 0.019 g | [Cu]I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1,1,1-trifluoro-2-(3-((3-methyl-3-oxetanyl)ethynyl)-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.150 g | FC(C(C)(O)C1=CC(=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C#CC1(COC1)C)(F)F | C23H25F3N2O4S2
